US08372864B2
40 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide are dissolved in 10 cm3 of ethyl ether at a temperature close to 20° C. 3 cm3 of a 1M hydrochloric acid solution in ether are added while stirring under argon. The reaction mixture precipitates. The precipitate is filtered through sintered glass, washed with 3 lots of 5 cm3 of ethyl ether then dried in a desiccator under vacuum at 35° C. for 2 h. 129 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride (1:1) are obtained in the form of a white solid.

reactant | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | 40 mg | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=CC2)=O)C(CCC)CCC)C=C(C1)F | C37H42F5N3O3
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethyl ether | 10 cm3 | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride | 129 mg | Cl.FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=CC2)=O)C(CCC)CCC)C=C(C1)F | InChI=1S/C37H42F5N3O3.ClH/c1-3-7-28(8-4-2)45-16-13-29-30(11-6-12-31(29)35(45)48)34(47)44-32(19-23-17-26(38)21-27(39)18-23)33(46)22-43-36(14-15-36)24-9-5-10-25(20-24)37(40,41)42;/h5-6,9-12,17-18,20-21,28,32-33,43,46H,3-4,7-8,13-16,19,22H2,1-2H3,(H,44,47);1H/t32-,33+;/m0./s1
